US04084001
Triethylamine (84 ml, 0.60 mole) was added dropwise over a period of 6 hours to a stirred solution of 1-methyl-2-thioxo-4,5-imidazolidinedione (88 g, 0.61 mole) and 1,5-dibromopentane (264 g, 1.20 mole) in dimethylsulphoxide (650 ml) at room temperature. The mixture was allowed to stand overnight and then poured into ice water (3 liters) containing concentrated hydrobromic acid (1 ml). The mixture was extracted with chloroform and the extracts were washed with water, dried over magnesium sulphate and evaporated to give an oil which was treated with hexane to give yellow crystals of 1-(5-bromopentyl)-3-methyl-2-thioxo-4,5-imidazolidinedione (82.3 g), m.p. 48°-50°.

reactant | Triethylamine | 0.60 mole, 84 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-2-thioxo-4,5-imidazolidinedione | 0.61 mole, 88 g | CN1C(NC(C1=O)=O)=S | C4H4N2O2S
reactant | 1,5-dibromopentane | 1.20 mole, 264 g | BrCCCCCBr | C5H10Br2
reactant | hydrobromic acid | 1 ml | Br | BrH
solvent | dimethylsulphoxide | 650 ml | CS(=O)C | C2H6OS
solvent | hexane | CCCCCC | C6H14
product | 1-(5-bromopentyl)-3-methyl-2-thioxo-4,5-imidazolidinedione | 82.3 g | BrCCCCCN1C(N(C(C1=O)=O)C)=S | C9H13BrN2O2S
